US07902191B2
(6-bromo-1,2,3,4-tetrahydro-naphthalen-2-yl)-cyclopentyl-amine
Charged 50 mL round bottomed flask with 6-bromo-2-tetralone (0.750 g., 3.33 mmoles., 1.0 eq.), cylcopentylamine (0.567 g., 0.648 mL., 6.66 mmoles., 2.0 eq.) and catalytic amount of tosic acid. Fitted flask with a Dean-Stark trap and heated reaction mixture overnight at 155° C. The next day, removed remaining solvent from reaction mixture using reduced pressure. Added 25 mL of methanol and placed reaction mixture on an ice bath. Added sodium borohydride (0.630 g, 16.6 mmoles, 5.0 eq.). Removed ice bath and allowed to stir for several hours. Partitioned reaction mixture between ethyl acetate and 1.0 N HCl aqueous solution. Extracted organic layer two times more with 1.0 N HCl solution. Combined acidic extractions and basified with 5.0 N NaOH. Extracted basic aqueous with methylene chloride three times. Combined organic extracts and dried over Na2SO4. Removed solvents using reduced pressure to obtain 0.429 g. (crude yield=43%). Purified using a reverse phase column and acetonitrile:TFA buffer solvent gradient. Collected TFA salt of 6-bromo-1,2,3,4-tetrahydro-naphthalen-2-yl)-cyclopentyl-amine. Partitioned the product between methylene chloride and 2.0N sodium carbonate solution. Washed organic layer with 2.0N sodium carbonate a second time and then with brine. Dried organic layer over sodium sulfate and removed solvent via reduced pressure to obtain 0.324 g. (yield=33%). Mass spectrum (APCI): 294 (M++1).

reactant | 6-bromo-2-tetralone | 3.33 mmoles, 0.750 g, 1.0 eq. | BrC=1C=C2CCC(CC2=CC1)=O | C10H9BrO
reactant | cylcopentylamine | 6.66 mmoles, 0.648 mL, 0.567 g, 2.0 eq. | C1(CCCC1)N | C5H11N
reactant | tosic acid | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | sodium borohydride | 16.6 mmoles, 0.630 g, 5.0 eq. | [BH4-].[Na+]
reactant | HCl | 1.0 N | Cl | ClH
solvent | methanol | 25 mL | CO | CH4O
product | (6-bromo-1,2,3,4-tetrahydro-naphthalen-2-yl)-cyclopentyl-amine | yield=33% | BrC=1C=C2CCC(CC2=CC1)NC1CCCC1 | C15H20BrN
